US07314879B2
3-(4-Chloro-phenyl)-2-[(isoquinoline-3-carbonyl)-amino]-propionic acid
To a solution of D4-chlorophenylalanine methyl ester hydrochloride (758 Mg, 3.03 mmol), 3-isoquinolinecarboxylic acid hydrate (500 mg, 2.89 mmol), HOBT (488 mg, 3.61 mmol), and DIPEA (2.51 mL, 14.45 mmol) in CH2Cl2 (30 mL) was added EDC (692 g, 3.61 mmol). The resulting mixture was stirred at room temperature overnight. The reaction mixture was poured onto a mixture EtOAc (50 mL) and water (20 mL) and the organic phase washed with water (3×), dried (Na2SO4), filtered, and concentrated to dryness. Final purification by flash chromatography (EtOAc/hexane 1:2) afforded 820 mg of desired compound as a solid. MS m/z 369.1 (M++1). B. To a solution of the above-formed ester (820 mg, 2.26 mmol) in THF (10 mL), a 1M aqueous solution of LiOH.H2O (11.3 mL, 11.3 mmol) was added and mixture stirred at room temperature for 1 h. Reaction was cooled to 0° C. and pH was adjusted to =1 upon addition of 1M HCl. Aqueous layer was extracted with EtOAc, dried (Na2SO4), and evaporated to afford 790 mg of the title compound as a solid. MS m/z 353.0 (M+−1)

reactant | 3-isoquinolinecarboxylic acid hydrate | 2.89 mmol, 500 mg | O.C1=NC(=CC2=CC=CC=C12)C(=O)O
reactant | HOBT | 3.61 mmol, 488 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 14.45 mmol, 2.51 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 3.61 mmol, 692 g
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 3-(4-Chloro-phenyl)-2-[(isoquinoline-3-carbonyl)-amino]-propionic acid | 820 mg | ClC1=CC=C(C=C1)CC(C(=O)O)NC(=O)C=1N=CC2=CC=CC=C2C1 | C19H15ClN2O3
